US09359329B2
A solution of 1.4 g (4.9 mmol) of 6-chloro-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide and 0.96 mL (19.7 mmol) of hydrazine monohydrate in 8 mL of EtOH is heated for 12 hours at 80° C. The precipitate obtained, after cooling to room temperature, is filtered off, washed with 10 mL of EtOH and then dried under vacuum. 0.85 g of 6-hydrazino-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide is obtained in the form of pale yellow crystals.

reactant | 6-chloro-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide | 4.9 mmol, 1.4 g | ClC1=CC=C(C=N1)S(=O)(=O)N(C1=NC=CC=C1)C | C11H10ClN3O2S
reactant | hydrazine monohydrate | 19.7 mmol, 0.96 mL | O.NN
solvent | EtOH | 8 mL | CCO | C2H6O
product | 6-hydrazino-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide | 0.85 g, Yield=62% | N(N)C1=CC=C(C=N1)S(=O)(=O)N(C1=NC=CC=C1)C | C11H13N5O2S
